US04766128
A solution of 0.4 mmol of tert-butyl hypochlorite in 2 ml of methylene chloride is added dropwise to a solution of 0.3 mmol of 3-(2,3-dihydro-6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea, 0.4 mmol of dimethyl sulfide, and 0.3 mmol of triethylamine in 5 ml of methylene choride at -70° C., and the mixture is agitated for 2 hours. Then a solution of 2 mmol of sodium ethylate in 2 ml of ethanol is added thereto within 10 minutes, and the mixture is warmed up to room temperature within 2 hours, whereafter it is combined with water, extracted with methylene chloride, the organic phase is dried and evaporated. Chromatography on silica gel with methylene chloride/methanol (5%) yields 30 mg of 3-(6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea.

reactant | tert-butyl hypochlorite | 0.4 mmol | ClOC(C)(C)C | C4H9ClO
reactant | 3-(2,3-dihydro-6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea | 0.3 mmol | CN1C[C@@H](C[C@@H]2C=3C=C(C=C4NCC(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
reactant | dimethyl sulfide | 0.4 mmol | CSC | C2H6S
reactant | triethylamine | 0.3 mmol | C(C)N(CC)CC | C6H15N
reactant | sodium ethylate | 2 mmol | CC[O-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene choride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea | 30 mg | CN1C[C@@H](C[C@@H]2C=3C=C(C=C4NC=C(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H27N5O3
